US09278968B2
23.6 g of a mixture of 8-[(2,6-difluorobenzyl)oxy]-N-{5-[2-(difluoromethyl)-2H-tetrazol-5-yl]-2,2-dimethyl-1,3-dioxan-5-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide and 8-[(2,6-difluorobenzyl)oxy]-N-{5-[1-(difluoromethyl)-1H-tetrazol-5-yl]-2,2-dimethyl-1,3-dioxan-5-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide, a mixture of 220 ml of methanol and 220 ml of 1 M hydrochloric acid was stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with chloroform/methanol=9:1. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 15.1 g of a crude product. To this crude product were added 30 ml of ethyl acetate and 150 ml of diisopropyl ether, followed by stirring at room temperature for 1 hour. The insoluble materials were separated by filtration, and the solid was washed with 100 ml of diisopropyl ether and dried under reduced pressure to obtain 12.9 g of 8-[(2,6-difluorobenzyl)oxy]-N-{2-[2-(difluoromethyl)-2H-tetrazol-5-yl]-1,3-dihydroxypropan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-[(2,6-difluorobenzyl)oxy]-N-{5-[2-(difluoromethyl)-2H-tetrazol-5-yl]-2,2-dimethyl-1,3-dioxan-5-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3(COC(OC3)(C)C)C=3N=NN(N3)C(F)F)C(=CC=C1)F | C24H23F4N7O4
reactant | 8-[(2,6-difluorobenzyl)oxy]-N-{5-[1-(difluoromethyl)-1H-tetrazol-5-yl]-2,2-dimethyl-1,3-dioxan-5-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC3(COC(OC3)(C)C)C3=NN=NN3C(F)F)C(=CC=C1)F | C24H23F4N7O4
reactant | hydrochloric acid | 1 M, 220 ml | Cl | ClH
reactant | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 220 ml | CO | CH4O
product | 8-[(2,6-difluorobenzyl)oxy]-N-{2-[2-(difluoromethyl)-2H-tetrazol-5-yl]-1,3-dihydroxypropan-2-yl}-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 12.9 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NC(CO)(CO)C=3N=NN(N3)C(F)F)C(=CC=C1)F | C21H19F4N7O4
